US08609866B2
Preparation of (Z)-hexyl amino-(4-((1-benzylpyrazole-4-carbonylamino)methyl)phenyl)methylenecarbamate
30 mg of 1-benzyl-N-[(4-carbamimidoylphenyl)methyl]pyrazole-4-carboxamide hydrochloride and 35 mg of potassium carbonate were dissolved in 0.4 ml of water and 2 ml of tetrahydrofuran. The mixture was stirred at room temperature, and 0.013 ml of n-hexyl chloroformate (Sigma-Aldrich) added. Stirring was continued for 1 h, following which the organic layer was removed, and dried in vacuo to obtain the synthetic target (>90% yield). The mass of the compound was verified using LC/MS/MS.

reactant | 1-benzyl-N-[(4-carbamimidoylphenyl)methyl]pyrazole-4-carboxamide hydrochloride | 30 mg | Cl.C(C1=CC=CC=C1)N1N=CC(=C1)C(=O)NCC1=CC=C(C=C1)C(N)=N
reactant | potassium carbonate | 35 mg | C([O-])([O-])=O.[K+].[K+]
reactant | n-hexyl chloroformate | 0.013 ml | ClC(=O)OCCCCCC | C7H13ClO2
solvent | water | 0.4 ml | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (Z)-hexyl amino-(4-((1-benzylpyrazole-4-carbonylamino)methyl)phenyl)methylenecarbamate | >90% yield | N\C(\C1=CC=C(C=C1)CNC(=O)C=1C=NN(C1)CC1=CC=CC=C1)=N/C(OCCCCCC)=O | C26H31N5O3
